* C:\Users\james\Documents\3.Personal Projects\MEC-arm\electrical\simulations\current-sense.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N002 0 SINE(0 20 800 0 0 0 20)
R1 N002 N003 1
R2 N003 0 0.004
R3 N004 N003 655
X§U1 N004 N005 N006 0 ADC_I_sense level2 Avol=1Meg GBW=20Meg Slew=10Meg Ilimit=35m Rail=50m Vos=4.5m En=21n Enk=10 In=1p Ink=10 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R4 N001 N004 22k
R5 N004 0 22k
R6 N005 0 1k
R7 ADC_I_sense N005 16k
V2 N001 0 3.3
V3 N006 0 3.3
C1 N004 0 220pf
.tran 0 5 0
;.step param Rtest 600 800 1
.meas tran VMAX MAX V(ADC_I_sense)
.meas tran VMIN MIN V(ADC_I_sense)
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\james\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
